US07786157B2
3-(3-Chloro-2-methyl-phenyl)-1-(2-pyrazolo[3,4-b]pyridin-2-yl-acetyl)-imidazolidin-4-one
A mixture of 1-(2-Chloro-acetyl)-3-(3-chloro-2-methyl-phenyl)-imidazolidin-4-one (230 mg, 0.8 mmol, 1 eq), 1H-Pyrazolo[3,4-b]pyridine (96 mg, 0.8 mmol, 1 eq), Cesium carbonate (653 mg, 2.0 mmol, 2.5 eq) in DMF (6 ml) was stirred at room temperature overnight. It was diluted with ethyl acetate, washed with water and purified with HPLC to give the desired product. LCMS observed for (M+H)+: 370.1

reactant | 1-(2-Chloro-acetyl)-3-(3-chloro-2-methyl-phenyl)-imidazolidin-4-one | 0.8 mmol, 230 mg, 1 eq | ClCC(=O)N1CN(C(C1)=O)C1=C(C(=CC=C1)Cl)C | C12H12Cl2N2O2
reactant | 1H-Pyrazolo[3,4-b]pyridine | 0.8 mmol, 96 mg, 1 eq | N1N=CC=2C1=NC=CC2 | C6H5N3
reactant | Cesium carbonate | 2.0 mmol, 653 mg, 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Chloro-2-methyl-phenyl)-1-(2-pyrazolo[3,4-b]pyridin-2-yl-acetyl)-imidazolidin-4-one | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CN1N=C2N=CC=CC2=C1)=O)C | C18H16ClN5O2
